US09283555B2
N1-(2,6-dimethylphenyl)-N2-(diphenylphosphino) benzamidine (NP Amidine I)
N1-(2,6-dimethylphenyl)benzamidine (3.36 g, 15.0 mmol) was dissolved in 50 mL of diethylether and cooled to 0° C. Butyllithium (7.50 mL of 2.0 M solution in diethylether, 15.0 mmol) was added dropwise, producing a fluffy white suspended solid. The slurry was warmed to room temperature and stirred for 2 hours. Chlorodiphenylphosphine (2.69 mL, 15.0 mmol) was added slowly at room temperature. The suspended solid became finer and denser and the solution became slightly yellow upon complete addition of the phosphine. Stirring was continued for 1 hour. The solution was filtered to remove a small amount of white solid, presumably lithium chloride, and the solvent was removed in vacuo. The yellow foamy residue was suspended in 50 mL of pentane and stirred for 3 hours. Filtration and drying afforded 3.46 g (56%) of off-white solid.

reactant | N1-(2,6-dimethylphenyl)benzamidine | 15.0 mmol, 3.36 g | CC1=C(C(=CC=C1)C)NC(C1=CC=CC=C1)=N | C15H16N2
reactant | Butyllithium | 15.0 mmol, 2.0 M, 7.50 mL | C(CCC)[Li]
reactant | Chlorodiphenylphosphine | 15.0 mmol, 2.69 mL | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | phosphine | P | H3P
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
product | N1-(2,6-dimethylphenyl)-N2-(diphenylphosphino) benzamidine | 3.46 g, 56% | CC1=C(C(=CC=C1)C)NC(C1=CC=CC=C1)=NP(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25N2P
